US07163947B2
A solution of N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(1-ethylpropylidene)amine (1.78 g, 5.73 mmol) in 20 mL of methanol was treated with NaBH4 (0.867 g, 22.9 mmol) and CeCl3.7H2O (15 mg, catalytic) and stirred under an atmosphere of nitrogen. After 24 h, the reaction was concentrated under reduced pressure, dissolved CHCl3, washed with water (2×) and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield a yellow/green syrup. Chromatography (SiO2, 93:7 CHCl3:MeOH) gave N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(1-ethylpropyl)amine (1.01 g) as a yellow/green oil.

reactant | N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(1-ethylpropylidene)amine | 5.73 mmol, 1.78 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N=C(CC)CC | C18H22N4O
reactant | NaBH4 | 22.9 mmol, 0.867 g | [BH4-].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 20 mL | CO | CH4O
product | N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(1-ethylpropyl)amine | 1.01 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)NC(CC)CC | C18H24N4O
